US07384945B2
4-{4-Nitro-3-[(2-phenoxy-acetyl)-(4-trifluoromethoxy-benzyl)-amino]-phenyl}-piperazine-1-carboxylic acid tert-butyl ester
A mixture of 1 g (2.19 mmol) 4-[4-nitro-3-(2-phenoxy-acetylamino)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester, 1.07 g (3.29 mmol) cesiumcarbonate and 0.79 g (3.29 mmol) 4-(trifluoromethoxy)benzyl bromide (commercially available) in 6.6 ml DMF was stirred at 110° C. for 2 h. After cooling to room temperature the precipitate was filtered of. The residue was used without further purification. The title compound was isolated as brown solid (0.39 g; 37%). MS(ISP): 631.5 (M+H)+

reactant | 4-[4-nitro-3-(2-phenoxy-acetylamino)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester | 2.19 mmol, 1 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=C(C=C1)[N+](=O)[O-])NC(COC1=CC=CC=C1)=O | C23H28N4O6
reactant | cesiumcarbonate | 3.29 mmol, 1.07 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-(trifluoromethoxy)benzyl bromide | 3.29 mmol, 0.79 g | FC(OC1=CC=C(CBr)C=C1)(F)F | C8H6BrF3O
solvent | DMF | 6.6 ml | CN(C)C=O | C3H7NO
product | 4-{4-Nitro-3-[(2-phenoxy-acetyl)-(4-trifluoromethoxy-benzyl)-amino]-phenyl}-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=C(C=C1)[N+](=O)[O-])N(CC1=CC=C(C=C1)OC(F)(F)F)C(COC1=CC=CC=C1)=O | C31H33F3N4O7
